US03998954
A mixture of homophthalic acid (9.0 g., 0.05 mole) and allylamine (2.8 g., 0.05 mole) was heated by an oil bath to 185°-190° C. for 40 minutes. The mixture solidified upon cooling, and was recrystallized twice from isopropanol, giving 2-allylisoquinoline-1,3 (2H, 4H)-dione, 4.6 g. (46% yield), m.p. 75°-77° C.

reactant | homophthalic acid | 0.05 mole, 9.0 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | allylamine | 0.05 mole, 2.8 g | C(C=C)N | C3H7N
product | 2-allylisoquinoline-1,3 (2H, 4H)-dione | 46% yield | C(C=C)N1C(C2=CC=CC=C2CC1=O)=O | C12H11NO2
